US05098707
In operations carried out in a manner similar to that described in Example I, 1-(3-methoxy-3-oxopropyl)imidazol-2-thiol was reacted first with chloroacetone and triethylamine to obtain 1-(3-methoxy-3-oxopropyl)-3-methyl-2-[(2-oxopropyl)thio]-1H-imidazole, which then was reacted with methyl trifluoromethanesulfonate to obtain 1-(3-methoxy-3-oxopropyl)-3-methyl-2-[(2-oxopropyl)thio]-1H-imidazolium trifluoromethanesulfonate, which in turn was passed through a Dowex-1 (Cl-) ion exchange column to obtain 1-(3-methoxy-3-oxopropyl)-3-methyl-2-[(2-oxopropyl)thio]-1H-imidazolium chloride having m.p. 121°-124° C.

reactant | 1-(3-methoxy-3-oxopropyl)imidazol-2-thiol | COC(CCN1C(=NC=C1)S)=O | C7H10N2O2S
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(3-methoxy-3-oxopropyl)-3-methyl-2-[(2-oxopropyl)thio]-1H-imidazole | COC(CCN1C(N(C=C1)C)SCC(C)=O)=O | C11H18N2O3S
